US07622493B2
7-hydroxyspiro[chroman-2,1′-cyclohexane]-4-one
To a solution of diethyl phosphite (4 mL, 31.0 mmol) in 1,2-dimethoxyethane (100 mL) was added 60% NaH (3.72 g, 93 mmol). When gas evolution had mostly ceased (10 min), a solution of bromoacetic acid (4.3 g, 30.9 mmol) in 1,2-dimethoxyethane (30 mL) was added slowly. When gas evolution had again ceased, cyclohexanone (3.2 mL, 30.9 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 1 h, then was quenched with ethanol (5 mL) and was poured into ice water. The aqueous layer washed with ether, acidified to pH 4 with conc. HCl, and then extracted with ether. The extracts were dried over Na2SO4, filtered and were evaporated in vacuo. The title compound was afforded as a yellow-orange oil, which was mixed in POCl3 (25 mL, 268.2 mmol) with resorcinol (3.39 g, 30.8 mmol) and ZnCl2 (5.9 g, 43.3 mmol). The mixture was stirred at room temperature for 5.5 h and was then poured onto ice. Extraction with ethyl acetate, followed by drying over Na2SO4, filtration and evaporation in vacuo, afforded the crude product as a dark orange oil. Chromatography on silica gel (7:3 hexane-ethyl acetate, eluant) yielded the title compound as an off-white solid, 3.14 g (44%). 1H NMR (300 MHz, DMSO-d6) δ 10.47 (br, 1H), 7.56 (d, J=8.5 Hz, 1H), 6.43 (m, 1H), 6.28 (d, J=2.4 Hz, 1H), 2.63 (s, 2H), 1.44-1.87 (m, 10H). MS (DCI+) m/z 233 (M+H).

reactant | diethyl phosphite | 31.0 mmol, 4 mL | P(OCC)(OCC)[O-]
reactant | NaH | 93 mmol, 3.72 g | [H-].[Na+]
reactant | bromoacetic acid | 30.9 mmol, 4.3 g | BrCC(=O)O | C2H3BrO2
reactant | cyclohexanone | 30.9 mmol, 3.2 mL | C1(CCCCC1)=O | C6H10O
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
product | 7-hydroxyspiro[chroman-2,1′-cyclohexane]-4-one | OC1=CC=C2C(CC3(CCCCC3)OC2=C1)=O | C14H16O3
